US04472305
Triethylamine (120 mmole.), then 1-hydroxybenzotriazole (60.0 mmole.), then dicyclohexylcarbodiimide (60.0 mmole.) were added with stirring to a solution of BocDTrp-LeuOH (59.9 mmole.) and HMetNH2 hydrochloride salt (60.0 mmole.) in tetrahydrofuran (300 ml.) with cooling to 0° C. Stirring was continued at 0° C. for one hour, then overnight while the mixture was allowed to warm to room temperature. The mixture was filtered and the filtrate was stripped of volatiles. Crystallization of the residue from isopropyl acetate affording BocDTrp-Leu-MetNH2 in 80% yield (26.3 g., m.r. 190°-194° C.).

reactant | Triethylamine | 120 mmole | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 60.0 mmole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 60.0 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | BocDTrp-LeuOH | 59.9 mmole | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C22H31N3O5
reactant | HMetNH2 hydrochloride | 60.0 mmole | N[C@@H](CCCSC)C(=O)N.Cl
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | BocDTrp-Leu-MetNH2 | 80% yield | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C27H41N5O5S
